US06268387B1
3-[3-(3,5-Bis-trifluoromethylphenyl)-thioureido]-4-methoxy-N-phenyl-benzamide
Prepared according to the procedure described for Example 60 using 3-amino-4-methoxy-N-phenyl-benzamide (0.972 g, 4.00 mmol) and 3,5-di(trifluoromethyl)phenyl isothiocyanate (1.08 g, 3.98 mmol) to afford the product (1.076 g); m.p. 192-193° C.

reactant | 3-amino-4-methoxy-N-phenyl-benzamide | 4.00 mmol, 0.972 g | NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC | C14H14N2O2
reactant | 3,5-di(trifluoromethyl)phenyl isothiocyanate | 3.98 mmol, 1.08 g | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=S)(F)F | C9H3F6NS
product | 3-[3-(3,5-Bis-trifluoromethylphenyl)-thioureido]-4-methoxy-N-phenyl-benzamide | 1.076 g | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(NC=1C=C(C(=O)NC2=CC=CC=C2)C=CC1OC)=S)(F)F | C23H17F6N3O2S
